US09376418B2
5-Bromopyridine-2-carbaldehyde (502 mg, 2.70 mmol) was added to a solution of ethyl (triphenyl-λ5-phosphanylidene)acetate (1570 mg, 4.51 mmol) in DMF (5.00 mL) and the reaction mixture was stirred at room temperature for 40 minutes. The mixture was poured into ice-water, and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated under reduced pressure. A mixture of hexane:ethyl acetate (2:1) was added to the crude residue and the insoluble materials were filtered off. The filtrate was concentrated under reduced pressure and purified by silica gel chromatography (4% ethyl acetate in hexanes) to afford ethyl-3-(5-bromopyridin-2-yl)prop-2-enoate MS APCI calc'd for C10H11BrNO2 [M+H]+ 256 and 258. found 256 and 258.

reactant | 5-Bromopyridine-2-carbaldehyde | 2.70 mmol, 502 mg | BrC=1C=CC(=NC1)C=O | C6H4BrNO
reactant | ethyl (triphenyl-λ5-phosphanylidene)acetate | 4.51 mmol, 1570 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OCC | C22H21O2P
solvent | DMF | 5.00 mL | CN(C)C=O | C3H7NO
product | ethyl-3-(5-bromopyridin-2-yl)prop-2-enoate | C(C)OC(C=CC1=NC=C(C=C1)Br)=O | C10H10BrNO2
